* Copyright 2020 The SkyWater PDK Authors
*
* Licensed under the Apache License, Version 2.0 (the "License");
* you may not use this file except in compliance with the License.
* You may obtain a copy of the License at
*
*     https://www.apache.org/licenses/LICENSE-2.0
*
* Unless required by applicable law or agreed to in writing, software
* distributed under the License is distributed on an "AS IS" BASIS,
* WITHOUT WARRANTIES OR CONDITIONS OF ANY KIND, either express or implied.
* See the License for the specific language governing permissions and
* limitations under the License.
*
* SPDX-License-Identifier: Apache-2.0


.subckt sky130_fd_sc_hd__dfbbp_1 CLK D RESET_B SET_B VGND VNB VPB VPWR Q Q_N
X0 a_1364_47# a_1429_21# VGND VNB sky130_fd_pr__nfet_01v8 w=420000u l=150000u
X1 a_2136_47# a_1429_21# VPWR VPB sky130_fd_pr__pfet_01v8_hvt w=640000u l=150000u
X2 VGND SET_B a_1545_47# VNB sky130_fd_pr__nfet_01v8 w=420000u l=150000u
X3 a_788_47# a_474_413# a_648_21# VNB sky130_fd_pr__nfet_01v8 w=640000u l=150000u
X4 a_1255_47# a_193_47# a_1341_413# VPB sky130_fd_pr__pfet_01v8_hvt w=420000u l=150000u
X5 a_381_47# a_27_47# a_474_413# VNB sky130_fd_pr__nfet_01v8 w=360000u l=150000u
X6 VPWR D a_381_47# VPB sky130_fd_pr__pfet_01v8_hvt w=420000u l=150000u
X7 VPWR SET_B a_648_21# VPB sky130_fd_pr__pfet_01v8_hvt w=420000u l=150000u
X8 VPWR a_648_21# a_1113_329# VPB sky130_fd_pr__pfet_01v8_hvt w=840000u l=150000u
X9 a_942_21# RESET_B VPWR VPB sky130_fd_pr__pfet_01v8_hvt w=640000u l=150000u
X10 a_2136_47# a_1429_21# VGND VNB sky130_fd_pr__nfet_01v8 w=420000u l=150000u
X11 a_892_329# a_942_21# VPWR VPB sky130_fd_pr__pfet_01v8_hvt w=840000u l=150000u
X12 VPWR SET_B a_1429_21# VPB sky130_fd_pr__pfet_01v8_hvt w=420000u l=150000u
X13 VGND SET_B a_788_47# VNB sky130_fd_pr__nfet_01v8 w=420000u l=150000u
X14 VGND a_648_21# a_1160_47# VNB sky130_fd_pr__nfet_01v8 w=640000u l=150000u
X15 a_558_413# a_648_21# VPWR VPB sky130_fd_pr__pfet_01v8_hvt w=420000u l=150000u
X16 a_648_21# a_474_413# a_892_329# VPB sky130_fd_pr__pfet_01v8_hvt w=840000u l=150000u
X17 a_1341_413# a_1429_21# VPWR VPB sky130_fd_pr__pfet_01v8_hvt w=420000u l=150000u
X18 VGND a_2136_47# Q VNB sky130_fd_pr__nfet_01v8 w=650000u l=150000u
X19 VGND a_1429_21# Q_N VNB sky130_fd_pr__nfet_01v8 w=650000u l=150000u
X20 a_1255_47# a_27_47# a_1364_47# VNB sky130_fd_pr__nfet_01v8 w=360000u l=150000u
X21 a_474_413# a_27_47# a_558_413# VPB sky130_fd_pr__pfet_01v8_hvt w=420000u l=150000u
X22 VGND a_27_47# a_193_47# VNB sky130_fd_pr__nfet_01v8 w=420000u l=150000u
X23 VPWR a_2136_47# Q VPB sky130_fd_pr__pfet_01v8_hvt w=1e+06u l=150000u
X24 a_27_47# CLK VGND VNB sky130_fd_pr__nfet_01v8 w=420000u l=150000u
X25 a_648_21# a_942_21# a_788_47# VNB sky130_fd_pr__nfet_01v8 w=640000u l=150000u
X26 a_27_47# CLK VPWR VPB sky130_fd_pr__pfet_01v8_hvt w=640000u l=150000u
X27 a_1429_21# a_1255_47# a_1663_329# VPB sky130_fd_pr__pfet_01v8_hvt w=840000u l=150000u
X28 a_1663_329# a_942_21# VPWR VPB sky130_fd_pr__pfet_01v8_hvt w=840000u l=150000u
X29 a_1429_21# a_942_21# a_1545_47# VNB sky130_fd_pr__nfet_01v8 w=640000u l=150000u
X30 VPWR a_27_47# a_193_47# VPB sky130_fd_pr__pfet_01v8_hvt w=640000u l=150000u
X31 a_381_47# a_193_47# a_474_413# VPB sky130_fd_pr__pfet_01v8_hvt w=420000u l=150000u
X32 VGND D a_381_47# VNB sky130_fd_pr__nfet_01v8 w=420000u l=150000u
X33 a_1160_47# a_193_47# a_1255_47# VNB sky130_fd_pr__nfet_01v8 w=360000u l=150000u
X34 a_474_413# a_193_47# a_582_47# VNB sky130_fd_pr__nfet_01v8 w=360000u l=150000u
X35 a_1545_47# a_1255_47# a_1429_21# VNB sky130_fd_pr__nfet_01v8 w=640000u l=150000u
X36 a_942_21# RESET_B VGND VNB sky130_fd_pr__nfet_01v8 w=420000u l=150000u
X37 a_1113_329# a_27_47# a_1255_47# VPB sky130_fd_pr__pfet_01v8_hvt w=420000u l=150000u
X38 a_582_47# a_648_21# VGND VNB sky130_fd_pr__nfet_01v8 w=420000u l=150000u
X39 VPWR a_1429_21# Q_N VPB sky130_fd_pr__pfet_01v8_hvt w=1e+06u l=150000u
.ends

* Absorber stubs: write_path_spice's lib_subckt reader (findCellSubckts) treats
* the last token of every device line as a subckt-call name, so a flat
* transistor netlist makes it look for the parameter "l=150000u" and the
* closing ".ends" as if they were cells.  These empty subckts satisfy that
* lookup; only the sky130_fd_sc_hd__dfbbp_1 subckt above is real.  (Unrelated
* to the async set/reset fix under test.)
.subckt l=150000u
.ends
.subckt .ends
.ends
